US07087616B2
Ethyl N-(4-chloro-2-pyrimidinyl)-N-methylglycinate
30.0 g (0.20 mol) of 2,4-dichloropyrimidine, 30.9 g (0.20 mol) of ethyl N-methylglycinate and 61.0 g (0.60 mol) of triethylamine in 200 ml of dioxane are stirred at 50° C. for 10 min. The mixture is filtered off with suction and the mother liquor is concentrated to half the original volume. A solid crystallizes out, which is filtered off with suction. The mother liquor is concentrated, the residue is stirred with petroleum ether and the product is filtered off.

reactant | 2,4-dichloropyrimidine | 0.20 mol, 30.0 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | ethyl N-methylglycinate | 0.20 mol, 30.9 g | CNCC(=O)OCC | C5H11NO2
reactant | triethylamine | 0.60 mol, 61.0 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | Ethyl N-(4-chloro-2-pyrimidinyl)-N-methylglycinate | ClC1=NC(=NC=C1)N(CC(=O)OCC)C | C9H12ClN3O2
